US05359098
6-(Pyrrolidylhexoxy)-2-phenyl-4H-1-benzopyran-4-one hydrochloride
The compound was prepared by the method of Example 3 from 6-hydroxyflavone, 1-bromo-6-chlorohexane, and pyrrolidine: mp 179°-181° C.

reactant | 6-hydroxyflavone | OC=1C=C2C(C=C(OC2=CC1)C1=CC=CC=C1)=O | C15H10O3
reactant | 1-bromo-6-chlorohexane | BrCCCCCCCl | C6H12BrCl
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 6-(Pyrrolidylhexoxy)-2-phenyl-4H-1-benzopyran-4-one hydrochloride | Cl.N1(CCCC1)CCCCCCOC=1C=CC2=C(C(C=C(O2)C2=CC=CC=C2)=O)C1 | InChI=1S/C25H29NO3.ClH/c27-23-19-25(20-10-4-3-5-11-20)29-24-13-12-21(18-22(23)24)28-17-9-2-1-6-14-26-15-7-8-16-26;/h3-5,10-13,18-19H,1-2,6-9,14-17H2;1H
